US07696229B2
1-ethylindoline (15 g, 102.04 mmol) was added at 0° C. to ClSO3H (60 g). The resulting solution was stirred at 50° C. overnight, then the reaction was quenched by adding 300 g iced water. The resulting solution was extracted with dichloromethane (3×600 mL) and the organic layers were combined, dried (MgSO4) and concentrated. The residue was then purified by column chromatography using a 1:100 ethyl acetate/petroleum ether solvent system to give 1.5 g (6%) of 1-ethylindoline-5-sulfonyl chloride as a yellow solid. 1H NMR (CDCl3) δ 7.28 (d, 1H), 7.18 (d, 1H), 7.11 (s, 1H), 3.39 (q, 2H), 3.52 (t, 2H), 3.06 (t, 2H), 1.23 (t, 3H).

reactant | 1-ethylindoline | 102.04 mmol, 15 g | C(C)N1CCC2=CC=CC=C12 | C10H13N
reactant | ClSO3H | 60 g | ClS(=O)(=O)O | ClHO3S
product | 1-ethylindoline-5-sulfonyl chloride | 1.5 g, 6% | C(C)N1CCC2=CC(=CC=C12)S(=O)(=O)Cl | C10H12ClNO2S
